US07816557B2
Racemic 3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 128 starting from 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester and 4-trifluoromethyl phenyl boronic acid. MS: 580.3 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H27BrF3NO4
reactant | 4-trifluoromethyl phenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | Racemic 3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid | CC1=C(C(=CC(=C1)OC(CCCC(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C30H29F6NO4
